US09416080B2
PhCH(OCH3)Me
Into a pressure vessel methanol (84 μL, 1 mmol, 1 eq) was added and diluted with ethylbenzene (1.225 mL, 10 mmol, 10 eq). To this stirring solution was added 1 mol % of a stock solution of {[Cl2NN]Cu}2(benzene) from the catalyst stock solution described in Example 4 (200 μL=0.01 mmol). After adding of tert-butyl peroxide (220 μL, 1.2 mmol), the pressure vessel was sealed and heated to 90° C. for 24 hr. The catalyst was separated by exposing the mixture to air and filtering through Celite®. After removing ethylbenzene under vacuum, the residue was analyzed by GC/MS and 1H NMR to determine the yield and consumption of starting materials. 1H NMR Yield: 35%.

reactant | methanol | 1 mmol, 84 μL, 1 eq | CO | CH4O
reactant | ethylbenzene | 10 mmol, 1.225 mL, 10 eq | C(C)C1=CC=CC=C1 | C8H10
reactant | tert-butyl peroxide | 1.2 mmol, 220 μL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | PhCH(OCH3)Me | Yield: 35% | C1(=CC=CC=C1)C(OC)C | C9H12O
